US08168793B2
A mixture of 3,4-bis-benzyloxy-5-nitro-benzonitrile (0.54 g, 1.50 mmol), sodium azide (0.15 g, 2.25 mmol) and ammonium chloride (0.12 g, 2.25 mmol) in dimethylformamide (3 mL) was stirred at 85° C. for 20 hours. After cooling to room temperature, the reaction mixture was poured onto water (30 mL) and acidified with dilute hydrochloric acid. The resulting precipitate was collected, washed with water and dried to yield 5-(3,4-bis-benzyloxy-5-nitro-phenyl)-2H-tetrazole, 0.53 g (87%).

reactant | 3,4-bis-benzyloxy-5-nitro-benzonitrile | 1.50 mmol, 0.54 g | C(C1=CC=CC=C1)OC=1C=C(C#N)C=C(C1OCC1=CC=CC=C1)[N+](=O)[O-] | C21H16N2O4
reactant | sodium azide | 2.25 mmol, 0.15 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 2.25 mmol, 0.12 g | [Cl-].[NH4+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 5-(3,4-bis-benzyloxy-5-nitro-phenyl)-2H-tetrazole | C(C1=CC=CC=C1)OC=1C=C(C=C(C1OCC1=CC=CC=C1)[N+](=O)[O-])C=1N=NNN1 | C21H17N5O4
